US04945090
(c) 4-methoxymethyl-5-phenoxy-beta-carboline-3-carboxamidoxime
A mixture of 329 mg (0.001 mol) of 3-cyano-4-methoxymethyl-5-phenoxy-beta-carboline, 100 mg of hydroxylamine hydrochloride, 20 ml of ethanol (99%) and 0.52 ml of a 20% aqueous potassium carbonate solution is refluxed for 22 hours. The reaction mixture is filtered and the filtrate concentrated. The residue is mixed with 10 ml of water, the crystalline solid is filtered off and washed with water.

reactant | 3-cyano-4-methoxymethyl-5-phenoxy-beta-carboline | 0.001 mol, 329 mg | C(#N)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)OC1=CC=CC=C1 | C20H15N3O2
reactant | hydroxylamine hydrochloride | 100 mg | Cl.NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-methoxymethyl-5-phenoxy-beta-carboline-3-carboxamidoxime | COCC1=C(N=CC=2NC3=CC=CC(=C3C12)OC1=CC=CC=C1)C(N)=NO | C20H18N4O3
